US06376413B1
9,9-Dichloro-9-silafluorene
Lithium wire (3.33 g, 0.08 mol) was washed with pentane, carefully cut into small pieces, and suspended in 150 mL of Et2O. While stirring, 2,2-dibromobiphenyl (25 g, 0.08 mol) in 100 mL of diethyl ether was added dropwise over 1 hour and the contents were allowed to stir for 10 hours. The mixture was filtered through a frit to remove any unreacted Li and LiBr. The filtrate was loaded into an addition funnel and slowly dropped into a solution containing SiCl4 (50 g, 0.08 mol) in 200 mL of Et2O. After addition, the contents were stirred at room temperature for 5 hours. The solvent was removed in vacuo and 300 mL of pentane was added. The solution was filtered to remove LiCl and the solvents were again removed in vacuo. The solids were then loaded into a sublimator and allowed to sublime at 150° C. under full vacuum. Yield was 10.0 g (51%).

reactant | Lithium | 0.08 mol, 3.33 g | [Li] | Li
reactant | 2,2-dibromobiphenyl | 0.08 mol, 25 g | BrC1(C(=CC=CC1)C1=CC=CC=C1)Br | C12H10Br2
reactant | SiCl4 | 0.08 mol, 50 g | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
solvent | pentane | CCCCC | C5H12
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 9,9-Dichloro-9-silafluorene | Cl[Si]1(C2=CC=CC=C2C=2C=CC=CC12)Cl | C12H8Cl2Si
